US08283353B2
4′-({7-butyl-4-[trans-4-(2-hydroxy-1,2-dimethylpropoxy)cyclohexyl]-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
A mixture of 4′-({7-butyl-4-[trans-4-(2-hydroxy-1-methylpropoxy)cyclohexyl]-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile (0.66 g), 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one (0.76 g) and acetonitrile (20 mL) was stirred at room temperature for 3 hr. Saturated aqueous sodium hydrogen carbonate solution and sodium thiosulfate were added to the reaction mixture, and the mixture was stirred at room temperature for 2 hr, and extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was dissolved in tetrahydrofuran (15 mL), and methylmagnesium bromide (1.0 M tetrahydrofuran solution, 2.4 mL) was added at 0° C. The reaction mixture was warmed to 0° C., and stirred for 6 hr. 1 N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The obtained ethyl acetate layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.32 g, 47%).

reactant | 4′-({7-butyl-4-[trans-4-(2-hydroxy-1-methylpropoxy)cyclohexyl]-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.66 g | C(CCC)C1=C(C(N(C=2N1N=CN2)[C@@H]2CC[C@H](CC2)OC(C(C)O)C)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C33H39N5O3
reactant | 1,1,1-triacetoxy-1,1-dihydro-1,2-benziodoxol-3(1H)-one | 0.76 g | CC(=O)OI1(C2=CC=CC=C2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4′-({7-butyl-4-[trans-4-(2-hydroxy-1,2-dimethylpropoxy)cyclohexyl]-5-oxo-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.32 g, 47% | C(CCC)C1=C(C(N(C=2N1N=CN2)[C@@H]2CC[C@H](CC2)OC(C(C)(C)O)C)=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N | C34H41N5O3
